* Ngspice тест: ACTUATOR_CHANNEL / ACT_CH_FB_MID
* Делитель ОС в среднем положении.
* 2,5В на FB_RAW → ~1,67В на FB (K = 2/3).
.INCLUDE spice/ACTUATOR_CHANNEL.sub

* Порты: FB FB_RAW GND IN1 IN2 MOTOR_A MOTOR_B

* V1: Потенциометр заслонки в среднем положении (2,5В)
V1 FB_RAW 0 DC 2.5
XACTUATOR_CHANNEL FB FB_RAW 0 IN1 IN2 MOTOR_A MOTOR_B ACTUATOR_CHANNEL

.op
.control
run
print v(fb)
.endc
.end
