* Ngspice тест: actuator_channel / ACT_CH_FB_MID
* Делитель ОС в среднем положении.
* 2,5В на FB_RAW → ~1,67В на FB (K = 2/3).
.INCLUDE /home/vitaly-pc/kicad/climate_control_niva_travel/spice/lib/drv8871_ngspice.lib
.INCLUDE spice/actuator_channel.sub

* Порты: FB FB_RAW GND ILIM IN1 IN2 MOTOR_A MOTOR_B VCC_12V

* V1: Потенциометр заслонки в среднем положении (2,5В)
V1 FB_RAW 0 DC 2.5

V2 VCC_12V 0 DC 0.0

V3 IN1 0 DC 0.0

V4 IN2 0 DC 0.0

R_MA MOTOR_A 0 1Meg

R_MB MOTOR_B 0 1Meg
Xactuator_channel FB FB_RAW 0 ILIM IN1 IN2 MOTOR_A MOTOR_B VCC_12V actuator_channel

.op
.control
run
print v(fb)
.endc
.end
